US06380239B1
A mixture of isoaspargine (10 mmol) and 3-nitrophthalic anhydride (10 mmol) in 15 ml of acetic acid is heated to reflux. The cooled reaction mixture is concentrated and the residue is purified by chromatography to afford 3-(4-nitro-1-oxoisoindolin-2-yl)-3-carbamoylpropanoic acid.

reactant | isoaspargine | 10 mmol | N[C@@H](CC(=O)O)C(N)=O | C4H8N2O3
reactant | 3-nitrophthalic anhydride | 10 mmol | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-(4-nitro-1-oxoisoindolin-2-yl)-3-carbamoylpropanoic acid | [N+](=O)([O-])C1=C2CN(C(C2=CC=C1)=O)C(CC(=O)O)C(N)=O | C12H11N3O6
